US04154935
1-(3-Acetylthio-2-trifluoromethylpropanoyl)-L-proline (4 g.) is dissolved in a mixture of water (8 ml.) and concentrated ammonia (8 ml.) under a blanket of nitrogen. After twenty-five minutes stirring at room temperature, the reaction mixture is chilled, acidified and extracted with ethyl acetate. The organic layer is concentrated to dryness in vacuo to yield 1-(3-mercapto-2-trifluoromethylpropanoyl)-L-proline.

reactant | 1-(3-Acetylthio-2-trifluoromethylpropanoyl)-L-proline | 4 g | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)C(F)(F)F | C11H14F3NO4S
solvent | water | 8 ml | O | H2O
solvent | ammonia | 8 ml | N | H3N
product | 1-(3-mercapto-2-trifluoromethylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C(F)(F)F | C9H12F3NO3S
